US05003089
250 g of vacuum gas oil were initially taken with 2.5 g of dodecylbenzenesulfonic acid at 250° C. in a stirred flask and nitrogen was passed in. 3-Methoxymethyl2,4-dioxaspiro[5.5]undecane was pumped in at a rate of 20 ml/h and the reaction products were distilled off simultaneously. The crude distillate was then worked up by distillation and gave, in addition to methanol, 83 g of 2,5-dioxaspiro[6.5]dodec-3-ene of boiling point 117° C./30 mbar and 268 g of unconsumed starting material; this corresponded to a conversion with respect to 3-methoxymethyl-2,4-dioxaspiro[5.5]undecane of 31% and a selectivity of 82%.

reactant | dodecylbenzenesulfonic acid | 2.5 g | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
reactant | 3-Methoxymethyl2,4-dioxaspiro[5.5]undecane | COCC1OCC2(CO1)CCCCC2 | C11H20O3
product | 2,5-dioxaspiro[6.5]dodec-3-ene | 83 g | C1OC=COCC12CCCCC2 | C10H16O2
